US07598391B2
Trans-1-cyclohexyl-3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-urea
Prepared in 40% (140 mg) yield as described for 1,1-dicyclohexyl-3-5-formyl-thiazol-2-yl)-urea using cyclohexyl-(trans-4-methyl-cyclohexyl)-amine (195 mg, 1.0 mmol) and 2-amino-5-formylthiazole (128 mg, 1.0 mmol).

reactant | urea | NC(=O)N | CH4N2O
reactant | cyclohexyl-(trans-4-methyl-cyclohexyl)-amine | 1.0 mmol, 195 mg | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)C | C13H25N
reactant | 2-amino-5-formylthiazole | 1.0 mmol, 128 mg | NC=1SC(=CN1)C=O | C4H4N2OS
product | Trans-1-cyclohexyl-3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)[C@@H]1CC[C@H](CC1)C | C18H27N3O2S
